US04046908
2-Nitro-4-thiocyanoaniline
To a well-stirred mixture of 108 g of o-nitroaniline and 128 g of ammonium thiocyanate in 400 ml of acetic acid there is added dropwise a solution of 128 g of bromine in 160 ml of acetic acid below 20° C. The mixture is stirred for 4 hours at room temperature and then poured into 4 liters of water. The resulting solid is filtered off and crystallized from ethanol to yield 86.7 g, m.p. 111°-114° C.

reactant | o-nitroaniline | 108 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | ammonium thiocyanate | 128 g | [S-]C#N.[NH4+]
reactant | bromine | 128 g | BrBr | Br2
reactant | water | 4 liters | O | H2O
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 160 ml | C(C)(=O)O | C2H4O2
product | 2-Nitro-4-thiocyanoaniline | [N+](=O)([O-])C1=C(N)C=CC(=C1)SC#N | C7H5N3O2S
